US07786165B2
ethyl 3-{4-[({4′-[2-(diethylamino)-2-oxoethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate
To a solution of ethyl 3-(4-amino-2-fluorophenyl)propanoate (0.496 g, 2.35 mmol) and N,N-diethyl-2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]acetamide (0.725 g, 2.14 mmol) in 1,2-dichloroethane (10 mL) was added acetic acid (0.245 mL, 4.28 mmol), and the mixture was stirred at room temperature for 3 hr. Sodium triacetoxyborohydride (0.907 q, 4.28 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 15 hr. Water and 10% aqueous citric acid solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-70% ethyl acetate/hexane) to give the title compound (0.978 g, yield 86%) as a yellow oil.

reactant | ethyl 3-(4-amino-2-fluorophenyl)propanoate | 2.35 mmol, 0.496 g | NC1=CC(=C(C=C1)CCC(=O)OCC)F | C11H14FNO2
reactant | N,N-diethyl-2-[(3′-formyl-2,6-dimethylbiphenyl-4-yl)oxy]acetamide | 2.14 mmol, 0.725 g | C(C)N(C(COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C)=O)CC | C21H25NO3
reactant | acetic acid | 4.28 mmol, 0.245 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 4.28 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | Water | O | H2O
product | ethyl 3-{4-[({4′-[2-(diethylamino)-2-oxoethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 0.978 g, yield 86% | C(C)N(C(COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)CCC(=O)OCC)F)C)=O)CC | C32H39FN2O4
